US08957080B2
Into a 100 mL, 3-necked round-bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed tert-butyl (2R)-2-([4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl)pyrrolidine-1-carboxylate (250 mg, 0.56 mmol, 1.00 equiv), 2-[4-(3,5-difluorophenoxy)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (226 mg, 0.68 mmol, 1.20 equiv), tetrakis(triphenylphosphane)palladium (39 mg, 0.03 mmol, 0.06 equiv), dioxane (50 mL), sodium carbonate (149 mg, 1.41 mmol, 2.50 equiv), and water (10 mL). The resulting solution was stirred for 12 h at 80° C. in an oil bath and then concentrated under vacuum. The resulting solution was extracted with dichloromethane and the organic layers combined, dried and concentrated under vacuum. The residue was loaded onto a silica gel column and eluted with dichloromethane/methanol (50/1) to give 0.237 g (81%) of tert-butyl (2R)-2-([4-amino-3-[4-(3,5-difluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl)pyrrolidine-1-carboxylate as a brown solid.

reactant | tert-butyl (2R)-2-([4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl)pyrrolidine-1-carboxylate | 0.56 mmol, 250 mg, 1.00 equiv | NC1=C2C(=NC=N1)N(N=C2I)C[C@@H]2N(CCC2)C(=O)OC(C)(C)C | C15H21IN6O2
reactant | 2-[4-(3,5-difluorophenoxy)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.68 mmol, 226 mg, 1.20 equiv | FC=1C=C(OC2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C)C=C(C1)F | C18H19BF2O3
reactant | dioxane | 50 mL | O1CCOCC1 | C4H8O2
reactant | sodium carbonate | 1.41 mmol, 149 mg, 2.50 equiv | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 10 mL | O | H2O
product | tert-butyl (2R)-2-([4-amino-3-[4-(3,5-difluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]methyl)pyrrolidine-1-carboxylate | 0.237 g, 81% | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC(=CC(=C2)F)F)C[C@@H]2N(CCC2)C(=O)OC(C)(C)C | C27H28F2N6O3
